US08048894B2
Method 2. Preparation of Methyl 4-hydroxy-6-iodo-1-methyl-2-oxo-1,2-dihydro-1,8-naphthyridine-3-carboxylate
6-Iodo-1-methyl-1H-pyrido[2,3-d][1,3]oxazine-2,4-dione. To a mixture of methyl 5-iodo-2-(methylamino)nicotinate and ethyl 5-iodo-2-(methylamino)nicotinate (10.5 g) and 1,4-dioxane (10 mL) in anhydrous 1,2-dichloroethane (1000 mL) was added trichloromethyl chloroformate (15.43 mL, 128.45 mmol) dropwise over 1 hour, with stirring and heating at 80° C. After addition, the reaction mixture was stirred at 80° C. for 4 hours, and was allowed to reach room temperature. The solvent was evaporated, and the residue was washed with a 1:1 mixture of EtOAc/hexanes (100 mL) and dried in vacuo to give the title compound.

reactant | 6-Iodo-1-methyl-1H-pyrido[2,3-d][1,3]oxazine-2,4-dione | IC1=CC2=C(N(C(OC2=O)=O)C)N=C1 | C8H5IN2O3
reactant | methyl 5-iodo-2-(methylamino)nicotinate | IC=1C=NC(=C(C(=O)OC)C1)NC | C8H9IN2O2
reactant | ethyl 5-iodo-2-(methylamino)nicotinate | 10.5 g | IC=1C=NC(=C(C(=O)OCC)C1)NC | C9H11IN2O2
reactant | trichloromethyl chloroformate | 128.45 mmol, 15.43 mL | ClC(=O)OC(Cl)(Cl)Cl | C2Cl4O2
solvent | 1,2-dichloroethane | 1000 mL | ClCCCl | C2H4Cl2
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | Methyl 4-hydroxy-6-iodo-1-methyl-2-oxo-1,2-dihydro-1,8-naphthyridine-3-carboxylate | OC1=C(C(N(C2=NC=C(C=C12)I)C)=O)C(=O)OC | C11H9IN2O4
